US08193359B2
4-[5-(4-Hydroxymethylfuro[3,2-c]pyridin-2-yl)-[1,2,4]oxadiazol-3-ylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester
To solution of 4-{5-[4-(tert-butylmethylsilanyloxymethyl)furo[3,2-c]pyridine-2-yl]-[1,2,4]oxadiazole-3-ylmethoxy}piperidine-1-carboxylic acid tert-butyl ester (Preparation 8, 54 mg, 99 μmol) in THF was added TBAF (0.25 mL of a 1.0M solution in THF, 250 μmol). After 10 min, the mixture was diluted with EtOAc, washed with H2O and brine, before being dried and concentrated. Purification via column chromatography afforded the title compound: RT=2.92 min; m/z (ES+)=431.1 [M+H]+.

reactant | 4-{5-[4-(tert-butylmethylsilanyloxymethyl)furo[3,2-c]pyridine-2-yl]-[1,2,4]oxadiazole-3-ylmethoxy}piperidine-1-carboxylic acid tert-butyl ester | 99 μmol, 54 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC1=NOC(=N1)C1=CC=2C(=NC=CC2O1)C(O[SiH2]C)C(C)(C)C | C26H38N4O6Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[5-(4-Hydroxymethylfuro[3,2-c]pyridin-2-yl)-[1,2,4]oxadiazol-3-ylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC1=NOC(=N1)C1=CC=2C(=NC=CC2O1)CO | C21H26N4O6
